US09193692B2
B. 7-Bromo-1-isopropyl-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one
A mixture of ethyl 2-(5-bromo-3-(isopropylamino)pyrazin-2-ylamino)acetate (780 mg, 2.26 mmol), methanol (5 mL) and TFA (10 mL) in a sealable vessel was purged with nitrogen, sealed, stirred vigorously and heated at 90° C. with an oil bath for 16 h. The resulting mixture was diluted with methanol and the solvent was removed under reduced pressure. Methanol (10 mL) was added and the solvent was removed under reduced pressure again. Methanol (10 mL) and sodium bicarbonate were added. The resulting mixture was stirred at room temperature until pH=6 (in water), the solvent was removed under reduced pressure. Water (20 mL) was added. The mixture was extracted with methylene chloride (20 mL×3). The organic layer was dried over anhydrous sodium sulfate, concentrated to give the crude product and purified on silica column chromatography (10-20% ethyl acetate in petroleum ether) to give the title compound (360 mg, 39.4% yield).

reactant | ethyl 2-(5-bromo-3-(isopropylamino)pyrazin-2-ylamino)acetate | 2.26 mmol, 780 mg | BrC=1N=C(C(=NC1)NCC(=O)OCC)NC(C)C | C11H17BrN4O2
reactant | TFA | 10 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | methanol | 5 mL | CO | CH4O
product | 7-Bromo-1-isopropyl-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one | 360 mg, 39.4% yield | BrC1=CN=C2C(=N1)N(C(CN2)=O)C(C)C | C9H11BrN4O
